2134-12-14 07:54:00 Physician Resident Progress Note
Chief Complaint: Hypotension, L foot infection
   24 Hour Events:
 INVASIVE VENTILATION - START [**2134-12-13**] 04:50 PM
 MULTI LUMEN - START [**2134-12-13**] 05:51 PM
 EKG - At [**2134-12-13**] 10:30 PM
   - climbing CK, CKMB, troponin, repeat EKG showed improved lateral STD
   but new TWI in V4-6, started on heparin gtt, cardiology consult called
   - levophed off at 0800
   - [**Last Name (un) 45**] stim test (1.4-->2), started on hydrocort and fludrocort
   - hypothermic on PD (T 93.6)
   Patient unable to provide history: Sedated
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-14**] 06:10 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 700 units/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-12-13**] 08:36 PM
   Heparin Sodium - [**2134-12-13**] 11:00 PM
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2134-12-14**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 34.2
C (93.6
   HR: 62 (47 - 67) bpm
   BP: 105/62(73) {88/55(63) - 161/85(105)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (9 - 11)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  1,693 mL
                                                                    383 mL
   PO:
   TF:
   IVF:
                                                                  1,603 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                 -1,340 mL
   Urine:
                                                                    445 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,248 mL
                                                                  1,723 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 368 (368 - 368) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.29/33/77.[**Numeric Identifier 96**]/16/-9
   Ve: 6.7 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   9.3 g/dL
   226 mg/dL
   5.9 mg/dL
   16 mEq/L
   4.0 mEq/L
   46 mg/dL
   105 mEq/L
   136 mEq/L
   28.2 %
   6.5 K/uL
        [image002.jpg]
                            [**2134-12-13**]  07:58 PM
                            [**2134-12-13**]  11:43 PM
                            [**2134-12-14**]  03:43 AM
   WBC
   6.5
   Hct
   28.2
   Plt
   167
   Cr
   6.2
   5.9
   TropT
   1.09
   1.27
   TCO2
   17
   Glucose
   205
   226
   Other labs: PT / PTT / INR:15.1/72.3/1.3, CK / CKMB /
   Troponin-T:266/34/1.27, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Microbiology: [**2134-12-13**] 11:09 pm DIALYSIS FLUID
      GRAM STAIN (Final [**2134-12-14**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):
   ---
   [**12-13**] blood anx urine Cx NGTD
   [**12-14**] CXR ETT tube ~4.2 cm from carina R IJ in proper position low lung
   volumes no infiltrate, effusion, PTX
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 CELLULITIS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   52M with DM1 with gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, CHF with EF 45%, PVD admitted with septic shock from LLE
   cellulitis.
   # Multifactorial shock:  Most likely source LLE cellulitis; history of
   MRSA/PREVOTELLA SPECIES/PRESUMPTIVE VEILLONELLA in L foot s/p surgical
   I&D in [**1-/2133**]; [**First Name9 (NamePattern2) 10667**] [**Last Name (un) 45**] stim (on prednisone 5 mg daily for renal
   transplant); also has positive cardiac biomarkers in the setting of
   known 2V CAD
   - IVF to maintain CVP 10-12
   -restart levophed to maintain MAP>65
   -check ScvO2
   -cont vanc/zosyn for diabetic foot ulcer
   -f/u culture data bcxs, Ucx
   -podiatry C/S re: wound probe, debridement
   -plain film L foot to eval for osteo
   -cont. hydrocort and fludrocort
   -treatment of NSTEMI as below
   # NSTEMI:  EKG with ischemic changes and positive biomarkers, no
   evidence of ST elevation or decompensated CHF
   - serial cardiac enzymes until peak
   - ASA 325 mg, plavix
   - cont heparin gtt
   - high dose statin
   - hold BB for now given borderline BP
   - repeat ECHO to eval for new WMA, worsening systolic dysfunction
   - cardiology following, appreciate recs
   # Acute mental status changes:  Pt delirious in the setting of
   hypoglycemia, was then oriented in the ED when FS 308 prior to
   intubation.  CT head showed prior infarcts, nothing acute.  Wife
   refused LP.
   # Respiratory distress:  Intubated electively in the setting of shock,
   on minimal support
   -SBT per weaning protocol
   # ESRD
   -appreciate renal involvement
   -cont PD
   -cont. cyclosporine
   -stress dose steroids
   # DM1
   -stop insulin gtt, transition to SC insulin
   # Systolic CHF:  TTE [**1-25**] showed EF 45-50%, akinesis of basal inferior
   wall and hypokinesis of the mid and basal inferolateral wall
   -repeat ECHO, as above
   # FEN: IVFs prn/ replete lytes prn / NPO
   # PPX: H2RA, heparin SQ, hold bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT: Wife [**Name (NI) 4**] [**Name (NI) 10662**] [**Telephone/Fax (1) 10663**]
   # DISPO: ICU
   ICU Care
   Nutrition: NPO for trial of extubation
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition:ICU

2134-12-14 08:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M with DM1 with gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, CHF with EF 45%, PVD who presents with LLE cellulitis, found
   to be in shock, intubated on pressors.
   24 Hour Events:
   [**Last Name (un) **] stim 1.4 -> 2 (started on steroids with improvement of BP)
   Increased CK/MB/Trop with associated EKG changes -> started on heparin
   gtt, cards c/s
   +3 L
   Hyperglycemia -> insulin gtt
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-14**] 06:10 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 700 units/hour
   Insulin - Regular - 5.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-12-13**] 08:36 PM
   Heparin Sodium - [**2134-12-13**] 11:00 PM
   Other medications:
   levophed intermittently, ASA 325, Ranitidine [**Hospital1 **], Calcitriol,
   Cyclosporine 25mg qday, Plavix 75mg daily, Simvastatin 80mg daily,
   hydrocortisone 50 IV q6h, Fludrocort 0.5 daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-14**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 64 (47 - 67) bpm
   BP: 99/61(71) {88/55(63) - 161/85(105)} mmHg
   RR: 16 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (9 - 11)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  1,693 mL
                                                                    410 mL
   PO:
   TF:
   IVF:
                                                                  1,603 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                 -1,305 mL
   Urine:
                                                                    445 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,248 mL
                                                                  1,715 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 366 (366 - 540) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.29/33/77.[**Numeric Identifier 96**]/16/-9
   Ve: 10.3 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, large neck diameter
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: 1+, LLE cellulitis with pus expressed from 2^nd toe
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   167 K/uL
   226 mg/dL
   5.9 mg/dL
   16 mEq/L
   4.0 mEq/L
   46 mg/dL
   105 mEq/L
   136 mEq/L
   28.2 %
   6.5 K/uL
        [image002.jpg]
                            [**2134-12-13**]  07:58 PM
                            [**2134-12-13**]  11:43 PM
                            [**2134-12-14**]  03:43 AM
   WBC
   6.5
   Hct
   28.2
   Plt
   167
   Cr
   6.2
   5.9
   TropT
   1.09
   1.27
   TCO2
   17
   Glucose
   205
   226
   Other labs: PT / PTT / INR:15.1/72.3/1.3, CK / CKMB /
   Troponin-T:266/34/1.27, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR: minimal perihilar fullness, otherwise clear with low lung
   volumes. RIJ and ET tube in good position.
   Microbiology: Blood cx/urine cx NGTD
   Dialysiate pending (3+ polys, no org)
   Echo today: new inferoposterior/lateral HK with further decrease in
   LVEF to 40% concerning for in-stent thrombosis of left Circumflex
   Assessment and Plan
   52M with DM1 with gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, CHF with EF 45%, PVD who presents with LLE cellulitis, found
   to be in shock, intubated on pressors.
   # Multifactorial shock:  Initially hypovolumeic. Also with sepsis
   (likely LLE cellulitis), adrenal insufficiency (on chronic pred and
   failed [**Last Name (un) 45**] stim), and NSTEMI with h/o 2VD in [**2131**].
   - Cont. IVF boluses for CVP 10-12
   - Currently intermittently on levophed to maintain MAP >60
   - Cover broadly with vanc/zosyn for diabetic foot ulcer
   - Podiatry c/s to I&D
   - Imaging of L foot
 negative for osteomyelitis
   - F/u cultures
   - Cont. hydrocort and fludrocort for adrenal insufficiency
   - Serial cardiac enzymes, EKGs until peaks
   # NSTEMI:  EKG with ischemic changes, no STE
 NSTEMI, less likely
   demand ischemia.
   - Serial cardiac enzymes, EKGs until peak
   - ASA 325 mg / Plavix/ Statin / heparin gtt
   - Hold BB for now given intermittent pressor requirement
   - ECHO demonstrates new WMA concerning for re-stenosis of known stent-
   to cardiac cath lab today
   # Systolic CHF:  ECHO from [**1-25**]--EF 45-50%, akinesis of basal inferior
   wall and hypokinese of the mid and basal inferolateral wall.
   - repeat ECHO
   # Acute mental status changes:  Pt had acute MS changes this AM, found
   to have blood glucose of 40.  Oriented in the ED with FS 308.  CT head
   showed prior infarcts, nothing acute.  Wife refused LP.
   - Currently sedated - > will reassess off sedation when able
   # Acute respiratory failure:  Intubated electively.  CXR with pulm
   edema.  On minimal ventilatory support.
   - Given concern for in-stent thrombosis/NSTEMI with plans for cardiac
   cath, will keep pt intubated today. After cardiac cath, will consider
   sedation wean/SBT.
   # ESRD on PD: On cyclosporine for h/o renal transplant. Stress dose
   steroids.
   - Renal aware
 will ask about why patient on cyclosporine with
   transplant has failed.
   # DM1:
   - Switched to insulin gtt due to stress dose steroids
   # FEN: IVFs prn/ replete lytes prn / NPO
   # PPX: H2RA, heparin SQ, hold bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT: Wife [**Name (NI) 4**] [**Name (NI) 10662**] [**Telephone/Fax (1) 10663**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2134-12-15 08:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Cath - no acute events to explain shock. No intervention. Plan for CABG
   when stable.
   Vasc - plan to revascularize foot
   Extubated this am
   Podiatry consult
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2134-12-14**] 01:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-15**] 05:45 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2134-12-14**] 08:38 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-15**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36
C (96.8
   HR: 57 (51 - 66) bpm
   BP: 120/67(80) {76/50(56) - 142/76(92)} mmHg
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,160 mL
                                                                    524 mL
   PO:
   TF:
   IVF:
                                                                  1,980 mL
                                                                    344 mL
   Blood products:
   Total out:
                                                                 -1,250 mL
                                                                      0 mL
   Urine:
                                                                    320 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,410 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 728 (515 - 822) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 25
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.43/25/215/16/-5
   Ve: 7.2 L/min
   PaO2 / FiO2: 430
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, LLE cellulitis
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   244 K/uL
   223 mg/dL
   5.7 mg/dL
   16 mEq/L
   3.7 mEq/L
   52 mg/dL
   105 mEq/L
   136 mEq/L
   27.7 %
   11.4 K/uL
        [image002.jpg]
                            [**2134-12-13**]  07:58 PM
                            [**2134-12-13**]  11:43 PM
                            [**2134-12-14**]  03:43 AM
                            [**2134-12-14**]  10:50 AM
                            [**2134-12-14**]  11:43 AM
                            [**2134-12-14**]  05:20 PM
                            [**2134-12-14**]  05:40 PM
                            [**2134-12-14**]  06:00 PM
                            [**2134-12-15**]  03:59 AM
   WBC
   6.5
   11.4
   Hct
   28.2
   32
   27
   27.7
   Plt
   167
   244
   Cr
   6.2
   5.9
   5.9
   5.7
   TropT
   1.09
   1.27
   1.67
   TCO2
   17
   17
   17
   17
   Glucose
   [**Telephone/Fax (3) 10679**]7
   47
   168
   223
   Other labs: PT / PTT / INR:13.3/27.1/1.1, CK / CKMB /
   Troponin-T:215/31/1.67, Lactic Acid:2.8 mmol/L, Ca++:7.4 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.3 mg/dL
   Imaging: L foot - 5 metatarsal fx, no osteo
   CXR - Stable.
   Microbiology: L foot swab - 2+ GPC
   Urine/blood negative
   Assessment and Plan
   52M with DM1 with gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, CHF with EF 45%, PVD who presents with LLE cellulitis, found
   to be in shock, intubated on pressors.
   # Multifactorial shock:  Initially hypovolumeic. Also with sepsis
   (likely LLE cellulitis), adrenal insufficiency (on chronic pred and
   failed [**Last Name (un) 45**] stim), and NSTEMI with h/o 2VD in [**2131**].
   - Cont. IVF boluses for CVP 10-12
   - Currently intermittently on levophed to maintain MAP >60
   - Cover broadly with vanc/zosyn for diabetic foot ulcer
   - Podiatry c/s to I&D
   - Imaging of L foot
 negative for osteomyelitis
   - F/u cultures
   - Cont. hydrocort and fludrocort for adrenal insufficiency
   - Serial cardiac enzymes, EKGs until peaks
   # NSTEMI:  EKG with ischemic changes, no STE
 NSTEMI, less likely
   demand ischemia.
   - Serial cardiac enzymes, EKGs until peak
   - ASA 325 mg / Plavix/ Statin / heparin gtt
   - Hold BB for now given intermittent pressor requirement
   - ECHO demonstrates new WMA concerning for re-stenosis of known stent-
   to cardiac cath lab today
   # Systolic CHF:  ECHO from [**1-25**]--EF 45-50%, akinesis of basal inferior
   wall and hypokinese of the mid and basal inferolateral wall.
   - repeat ECHO
   # Acute mental status changes:  Pt had acute MS changes this AM, found
   to have blood glucose of 40.  Oriented in the ED with FS 308.  CT head
   showed prior infarcts, nothing acute.  Wife refused LP.
   - Currently sedated - > will reassess off sedation when able
   # Acute respiratory failure:  Intubated electively.  CXR with pulm
   edema.  On minimal ventilatory support.
   - Given concern for in-stent thrombosis/NSTEMI with plans for cardiac
   cath, will keep pt intubated today. After cardiac cath, will consider
   sedation wean/SBT.
   # ESRD on PD: On cyclosporine for h/o renal transplant. Stress dose
   steroids.
   - Renal aware
 will ask about why patient on cyclosporine with
   transplant has failed.
   # DM1:
   - Switched to insulin gtt due to stress dose steroids
   # FEN: IVFs prn/ replete lytes prn / NPO
   # PPX: H2RA, heparin SQ, hold bowel regimen
   # ACCESS: RIJ
   # CODE:  FULL
   # CONTACT: Wife [**Name (NI) 4**] [**Name (NI) 10662**] [**Telephone/Fax (1) 10663**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2134-12-16 07:37:00 Physician Resident Progress Note
Chief Complaint: shock, resp failure
   24 Hour Events:
   -extubated
   -levophed off at 1100
   -csurg rec plavix washout but surgery unlikely to take place this
   admission so continued it (as per cards recs)
   -vanc trough supratherapeutic, deferred repeat dose until [**12-16**] level
   back
   -called renal re: cyclosporine level, recommended continue at current
   dose despite subtherapeutic level (role is to prevent any acute
   rejection of failing transplant) & consider increasing it when tapering
   hydrocortisone
   -unable to safely swallow pills, NG tube placed
   -self d/c'd NGT
   -zyprexa zydis 5 mg x 2 for agitation
   -became more delirious and hypoxemic 93% on 70%face tent other VSS, cxr
   unchanged, vbg 7.38/33/27/20 lactate 2.6 SaO2 43%, blood/urine Cx sent;
   placed on 100%FM ABG 7.45/25/57/18 Sa02 lactate 3.0, placed on 100%NRB,
   ordered lower ext dopplers to eval for DVT
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2134-12-14**] 01:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-15**] 08:47 PM
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-12-15**] 08:47 PM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2134-12-16**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.5
C (95.9
   HR: 100 (57 - 104) bpm
   BP: 137/89(101) {106/61(76) - 154/111(114)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 67.5 kg
             Total In:
                                                                  1,764 mL
                                                                     33 mL
   PO:
             TF:
   IVF:
                                                                  1,524 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    135 mL
   Urine:
                                                                    330 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,034 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.45/25/57/19/-4
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases, Rhonchorous: bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Clubbing
   Skin:  Cool, Rash: LLE cellulitic rash contained within demarcated
   borders
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   231 K/uL
   9.1 g/dL
   99 mg/dL
   5.7 mg/dL
   19 mEq/L
   3.6 mEq/L
   53 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2134-12-14**]  10:50 AM
                            [**2134-12-14**]  11:43 AM
                            [**2134-12-14**]  05:20 PM
                            [**2134-12-14**]  05:40 PM
                            [**2134-12-14**]  06:00 PM
                            [**2134-12-15**]  03:59 AM
                            [**2134-12-15**]  05:37 AM
                            [**2134-12-15**]  10:09 AM
                            [**2134-12-16**]  04:29 AM
                            [**2134-12-16**]  06:09 AM
   WBC
   11.4
   10.9
   Hct
   32
   27
   27.7
   26.3
   Plt
   244
   231
   Cr
   5.9
   5.7
   5.7
   TropT
   1.67
   1.11
   0.71
   TCO2
   17
   17
   17
   17
   18
   Glucose
   116
   47
   47
   168
   223
   99
   Other labs: PT / PTT / INR:13.3/27.1/1.1, CK / CKMB /
   Troponin-T:276/11/0.71, Lactic Acid:3.0 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   Imaging: FINDINGS: In comparison with the study of [**12-14**], there is
   little change in
   the appearance of the monitoring and support devices. Continued
   enlargement of the cardiac silhouette with more prominent opacification
   in the retrocardiac region at the base, consistent with atelectasis and
   effusion. In view of the clinical history, the possibility of a
   superimposed pneumonia must be considered. There is also some
   increasing opacification at the right base
   medially, that could represent a developing consolidation.
   Microbiology: [**2134-12-14**] 7:44 pm SWAB      Source: left foot wound.
      GRAM STAIN (Final [**2134-12-14**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      WOUND CULTURE (Preliminary):
         STAPH AUREUS COAG +.    MODERATE GROWTH.
   [**2134-12-13**] 11:09 pm DIALYSIS FLUID
      GRAM STAIN (Final [**2134-12-14**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):    NO GROWTH.
   [**Date range (1) 10688**] Blood Cx NGTD
   Assessment and Plan
   52M with DM1 c/b gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, iCMP with EF 40%, PVD admitted with septic shock from LLE
   cellulitis and subendocardial ischemia (type II MI).
    .
   # Hypoxemic Respiratory failure: resp status had been stable s/p
   extubation [**12-15**] until an acute decompensation with marked hypoxemia
   early this AM with an unclear precipitant; aspiration event possible as
   self-discontinued NG tube but no infiltrate on CXR; +5.6L LOS and +1L x
   24 hrs so volume overload may be contributing despite not being readily
   apparent on CXR
   -O2 to maintain sat>92%
   -trial of diuresis
 did not put out to lasix
   -cont ABX for nosocomial PNA cov'g
   -lower ext dopplers pending
   -if LENI
s negative consider CTA to exclude PE as already PD-dependent
   , however has been on Heparin sc and a heparin gtt
   -repeat ABG when O2 on face, if truly hypoxis, then would favor CTA
   .
   #Multifactorial shock - resolved, now off pressors ~24 hrs. suspect
   source is LLE cellulitis, as well as adrenal insufficiency based on
   inadequate [**Last Name (un) 45**] stim response
   -dose vanco by level
   -cont zosyn (day 4)  for cov'g diabetic foot ulcer & nosocomial PNA (10
   day course), will d/c cipro
   -taper hydrocort (day 3 today) starting [**12-17**] and d/c fludrocort
   -appreciate vascular & podiatry recs
   .
   #Subendocardial ischemia: enzymes peaked [**12-14**], cath showed progression
   of diffuse multivessel CAD but no ACS.  ECHO shows increased
   hypokinesis of the inferior, posterior, and lateral walls;
   - cont ASA 325 mg, plavix, statin
   - restart BB
   - appreciate cards recs
   .
   # ESRD
   -appreciate renal involvement
   -cont PD
   -cont. current dose of cyclosporine, d/w renal/transplant Rx re:
   increasing dose when tapering steroids
   .
   # DM1:  Sugars worse on stress dose steroids
   -transition insulin gtt to SC when eating
   .
   #Systolic CHF:  TTE showed EF 40%
   -diuresis, as above
   -BB, ACEI prior to discharge
   .
   # FEN: replace NG tube, nutrition c/s for TF rec
   .
   # PPX: H2blocker, SQH
   # ACCESS: R IJ, 18g PIV
   # CODE:  FULL
   # CONTACT: Wife [**Name (NI) 4**] [**Name (NI) 10662**] [**Telephone/Fax (1) 10663**]
   # DISPO: ICU
   ICU Care
   Nutrition: place NG tube for TF
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: H2RA
   Communication:  Wife [**Name (NI) 4**] [**Name (NI) 10662**] [**Telephone/Fax (1) 10663**]
   Code status: Full code
   Disposition: ICU

2134-12-16 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday am
   Levophed weaned off 11am yesterday
   Cardiac surgery consult - no iminent CABG, so will remain on Plavix
   Cyclosporine subtherapeutic - d/w renal and did not want to increase
   dose given that he is currently on high dose steroids, on cyclosporine
   to retain whatever graft function remains
   NGT placed - patient subsquently pulled it out
   Delirious and agitated overnight c/b hypoxemia - CXR unchanged (ABG
   7.45/25/57 on 100% FM, Lact 3.0) - placed on 100% NRB
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2134-12-14**] 01:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-15**] 08:47 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-12-15**] 08:47 PM
   Furosemide (Lasix) - [**2134-12-16**] 08:10 AM
   Other medications:
   Asa 325 daily, Calcitriol, Cyclosporine 25mg daily, Plavix 75 daily,
   Renagel, Simvastatin, Hydrocort 50 IV q6h, Fludrocort, Cipro, Zosyn,
   Heparin SQ
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-16**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.5
C (95.9
   HR: 89 (72 - 104) bpm
   BP: 125/93(101) {106/61(76) - 154/111(114)} mmHg
   RR: 15 (14 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.8 kg (admission): 67.5 kg
             Total In:
                                                                  1,768 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                  1,528 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    170 mL
   Urine:
                                                                    330 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,038 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   FiO2: 100%
   SpO2: 95%
   ABG: 7.45/25/57/19/-4
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bibasilar Crackles : , No(t)
   Wheezes : , Rhonchorous: ), Decreased at bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  no new rashes
   Neurologic: Follows simple commands, Responds to: verbal stimuli, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   231 K/uL
   99 mg/dL
   5.7 mg/dL
   19 mEq/L
   3.6 mEq/L
   53 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2134-12-14**]  10:50 AM
                            [**2134-12-14**]  11:43 AM
                            [**2134-12-14**]  05:20 PM
                            [**2134-12-14**]  05:40 PM
                            [**2134-12-14**]  06:00 PM
                            [**2134-12-15**]  03:59 AM
                            [**2134-12-15**]  05:37 AM
                            [**2134-12-15**]  10:09 AM
                            [**2134-12-16**]  04:29 AM
                            [**2134-12-16**]  06:09 AM
   WBC
   11.4
   10.9
   Hct
   32
   27
   27.7
   26.3
   Plt
   244
   231
   Cr
   5.9
   5.7
   5.7
   TropT
   1.67
   1.11
   0.71
   TCO2
   17
   17
   17
   17
   18
   Glucose
   116
   47
   47
   168
   223
   99
   Other labs: PT / PTT / INR:13.3/27.1/1.1, CK / CKMB /
   Troponin-T:276/11/0.71, Lactic Acid:3.0 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: 7.45/25/57 on 100% FM
   Imaging: CXR - improved from yesterday, LL opacity
   Microbiology: Foot swab - coag neg staph
   Dialysis - Cx negative
   Blood/urine negative to date
   Cultures from this am pending
   Assessment and Plan
   52M with DM1 with gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, CHF with EF 45%, PVD who presents with LLE cellulitis, found
   to be in shock, intubated on pressors.
   #Hypoxemia:  Extubated [**12-15**]. Unclear etiology of acute decompensation
   last pm.  CXR looks improved.  Considering pulmonary edema vs
   aspiration during NGT self removal vs PE.
   -Re-evaluation oxygen requirements once pt no longer agitated and
   pulling his mask off
   - Lasix to diurese
   - LE Dopplers (did not tolerate this am given agitation)
   - Already broadly covered with Vanc/Zosyn/Cipro
   - Repeat ABG
   - with pt now on SQ heparin and until recently, heparin gtt, PE seems
   less likely but if remains persistently hypoxic would obtain CTA
   # Multifactorial shock:  Initially hypovolumeic. Also with sepsis
   (likely LLE cellulitis) and adrenal insufficiency (on chronic pred and
   failed [**Last Name (un) 45**] stim).  Now off levophed.
   - Remains on hydrocortisone 50 mg IV q6h- will taper likely tomorrow
   - D/c fludrocortisone
   - Cover broadly with vanc/zosyn for diabetic foot ulcer x 10 days
 d/c
   cipro today
   - F/u cultures
   # Demand ischemia:  EKG with ischemic changes, no STE
 cards feels it
   is consistent with demand ischemia.  S/p cath [**12-14**]
 needs CABG in
   future.
   - ASA 325 mg / Plavix/ Statin
 off heparin gtt
   - Hold BB for now given intermittent pressor requirement
   # Agitation/delerium:  Fluctuating mental status
   -  Responded to zyprexa overnight.
   -  Redirectable.
   -  Consider haldol prn
   # ESRD on PD: On cyclosporine for h/o renal transplant (consider
   discontinuing). Stress dose steroids.
   # DM1:
   - Off insulin gtt this am.
   - Put on standing regimen for basal coverage (Lantus 10 = half of home
   coverage).
   #FEN:
   - Will need repeat NGT as mental status prohibiting PO intake
   ICU Care
   Nutrition:
   Glycemic Control:  Lantus
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Plan to meet with wife this afternoon.
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2134-12-17 07:27:00 Physician Resident Progress Note
Chief Complaint: Confusion
   24 Hour Events:
   - CTA showed no PE, B/l small-mod pleural effusion w/ assoc atelecasis,
   b/l lower lobe GG and nodular opacification non-spec for
   infl/infectious process, Pulm artery hypertension, ascites, Vasc calc
   included dense 3v coronary artery calc, mediastinal lipmatosis, and b/l
   gynecomastia.
   - Decreased stress dose steroids by [**2-19**], d/c'ed fludrocort
   - D/C'ed ciprofloxacin
   - Transitioned to subcutaneous insulin
   - Wife refused NGT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2134-12-14**] 01:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-15**] 08:47 PM
   Piperacillin - [**2134-12-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2134-12-16**] 08:10 AM
   Haloperidol (Haldol) - [**2134-12-16**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-12-17**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 87 (69 - 95) bpm
   BP: 153/86(104) {99/51(53) - 161/98(114)} mmHg
   RR: 27 (15 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 67.5 kg
             Total In:
                                                                    863 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                    863 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    330 mL
   Urine:
                                                                    490 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , Rhonchorous: anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Oriented (to): person only,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   231 K/uL
   9.1 g/dL
   99 mg/dL
   5.7 mg/dL
   19 mEq/L
   3.6 mEq/L
   53 mg/dL
   105 mEq/L
   140 mEq/L
   26.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2134-12-14**]  10:50 AM
                            [**2134-12-14**]  11:43 AM
                            [**2134-12-14**]  05:20 PM
                            [**2134-12-14**]  05:40 PM
                            [**2134-12-14**]  06:00 PM
                            [**2134-12-15**]  03:59 AM
                            [**2134-12-15**]  05:37 AM
                            [**2134-12-15**]  10:09 AM
                            [**2134-12-16**]  04:29 AM
                            [**2134-12-16**]  06:09 AM
   WBC
   11.4
   10.9
   Hct
   32
   27
   27.7
   26.3
   Plt
   244
   231
   Cr
   5.9
   5.7
   5.7
   TropT
   1.67
   1.11
   0.71
   TCO2
   17
   17
   17
   17
   18
   Glucose
   116
   47
   47
   168
   223
   99
   Other labs: PT / PTT / INR:13.3/27.1/1.1, CK / CKMB /
   Troponin-T:276/11/0.71, Lactic Acid:3.0 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.5 mg/dL
   Imaging: CTA [**12-16**] - 1 No PE. No aortic dissection
   2 B/l small-mod pleural effusion w/ assoc atelecasis
   3 b/l lower lobe GG and nodular opacification non-spec for
   infl/infectious
   process (resp motion renders study slightly suboptimal)
   4 Pulm artery hypertension
   5. Ascites
   6. Vasc calc included dense 3v coronary artery calc
   7. Mediastinal lipmatosis
   8. b/l gynecomastia
   Microbiology: Foot Swab - [**12-14**]
   STAPH AUREUS COAG +                            |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------  0.25 S
   OXACILLIN-------------   0.5 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   Assessment and Plan
   52M with DM1 c/b gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, iCMP with EF 40%, PVD admitted with septic shock from LLE
   cellulitis and subendocardial ischemia (type II MI).
    .
   # Hypoxemic Respiratory failure: resp status had been stable s/p
   extubation [**12-15**] until an acute decompensation with marked hypoxemia
   early this AM with an unclear precipitant; aspiration event possible as
   self-discontinued NG tube but no infiltrate on CXR; +5.6L LOS and +1L x
   24 hrs so volume overload may be contributing despite not being readily
   apparent on CXR
   -O2 to maintain sat>92%
   -trial of diuresis
 did not put out to lasix
   -cont ABX for nosocomial PNA cov'g
 will switch to nafcillin , with
   low threshold to go back to broader coverage if decompensates
   -CTA negative for PE
   .
   #Multifactorial shock - resolved, now off pressors ~24 hrs. suspect
   source is LLE cellulitis, as well as adrenal insufficiency based on
   inadequate [**Last Name (un) 45**] stim response
   -switch to nafcillin, foot growing MSSA
   -low threshold to go back to broader coverage if decompensates
   -back to home dose steroid today
   -appreciate vascular & podiatry recs - arterial studies pending
   .
   #Subendocardial ischemia: enzymes peaked [**12-14**], cath showed progression
   of diffuse multivessel CAD but no ACS.  ECHO shows increased
   hypokinesis of the inferior, posterior, and lateral walls;
   - cont ASA 325 mg, plavix, statin
   - BB
   - appreciate cards recs
   .
   # ESRD
   -appreciate renal involvement
   -cont PD
   -cont. current dose of cyclosporine, d/w renal/transplant Rx re:
   increasing dose when tapering steroids
   .
   # DM1:  Sugars worse on stress dose steroids
   -transition insulin gtt to SC when eating
   .
   #Systolic CHF:  TTE showed EF 40%
   -diuresis, as above
   -BB, ACEI prior to discharge
   .
   # FEN: no NTG per wife, replete lytes prn
   .
   # PPX: H2blocker, SQH
   # ACCESS: R IJ, 18g PIV
   # CODE:  FULL
   # CONTACT: Wife [**Name (NI) 4**] [**Name (NI) 10662**] [**Telephone/Fax (1) 10663**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   [**Year (4 digits) 763**]:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2134-12-17 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PE CT negative for PE
   Stress dose steroids weaned
   Fludrocort and cipro d/c'ed
   Wife refused NGT
   Delirous +/- hallucinations
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Vancomycin - [**2134-12-14**] 01:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-15**] 08:47 PM
   Piperacillin - [**2134-12-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2134-12-16**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-12-17**] 04:40 AM
   Dextrose 50% - [**2134-12-17**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-17**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 85 (69 - 93) bpm
   BP: 155/104(122) {124/72(85) - 161/104(122)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 67.5 kg
             Total In:
                                                                    863 mL
                                                                    228 mL
   PO:
             TF:
   IVF:
                                                                    863 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                  1,080 mL
   Urine:
                                                                    490 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    173 mL
                                                                   -852 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   FiO2: 5 L
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: dopplerable), (Left DP pulse:
   dopplerable)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, erythema/edema of L foot improving
   Skin:  scattered ecchymoses, no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Somnolent
   Labs / Radiology
   8.6 g/dL
   206 K/uL
   70 mg/dL
   5.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   48 mg/dL
   105 mEq/L
   142 mEq/L
   26.5 %
   7.8 K/uL
        [image002.jpg]
                            [**2134-12-14**]  11:43 AM
                            [**2134-12-14**]  05:20 PM
                            [**2134-12-14**]  05:40 PM
                            [**2134-12-14**]  06:00 PM
                            [**2134-12-15**]  03:59 AM
                            [**2134-12-15**]  05:37 AM
                            [**2134-12-15**]  10:09 AM
                            [**2134-12-16**]  04:29 AM
                            [**2134-12-16**]  06:09 AM
                            [**2134-12-17**]  06:01 AM
   WBC
   11.4
   10.9
   7.8
   Hct
   32
   27
   27.7
   26.3
   26.5
   Plt
   244
   231
   206
   Cr
   5.7
   5.7
   5.6
   TropT
   1.11
   0.71
   TCO2
   17
   17
   17
   17
   18
   Glucose
   47
   47
   168
   223
   99
   70
   Other labs: PT / PTT / INR:13.3/27.1/1.1, CK / CKMB /
   Troponin-T:276/11/0.71, Lactic Acid:3.0 mmol/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Imaging: PE CT - Small-mod pleural effusions b/l basilar infiltrates.
   No PE.
   Microbiology: Wound - MSSA
   Assessment and Plan
   52M with DM1 with gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, CHF with EF 45%, PVD who presents with LLE cellulitis and
   shock, ACS, intubated on pressors.  Cardiac cath demonstrated worsening
   3 vs disease with no lesion amenable to PCI, suggesting subendocardial
   ischemia.  Now improved
 extubated and off pressors.  Ongoing problems
   include:
   #Hypoxemia:  Extubated [**12-15**]. PECT yesterday as above.  In the interim,
   oxygen requirement spontaneously improved. Transient hypoxia may have
   represented aspiration, vs pulmonary edema. Unlikely to have VAP.
   - Lasix to diurese
   - F/U final CT read
   # Multifactorial shock:  Initially hypovolumeic. Also with sepsis
   (likely LLE cellulitis) and adrenal insufficiency (on chronic pred and
   failed [**Last Name (un) 45**] stim).  Now off levophed.
   - Reduce steroids to home dose (may help with delirium).
   - Start tapering antibiotics based on cultures: Nafcillin
 d/c
   vanc/zosyn. Will broaden coverage at first sign of decompensation.
   #LE ulcer: physical exam significantly improved
   - F/U vascular/podiatry recs
   - F/U arterial dopplers
   # Agitation/delerium:  Fluctuating mental status, redirectable
   -  Responded to zyprexa
   -  Consider haldol prn
   -  D/c stress dose steroids.
   # Demand ischemia:  EKG with ischemic changes, no STE
 cards feels it
   is consistent with demand ischemia.  S/p cath [**12-14**]
 needs CABG in
   future.
   - ASA 325 mg / Plavix/ Statin
   - Hold BB for now given intermittent pressor requirement
   # ESRD on PD: On cyclosporine for h/o renal transplant. Home dose
   steroids.
   #FEN: Wife refusing NGT.  Mental status not able to tolerate Pos.  Will
   readdress with wife.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Critical care  time spent: 32 minutes

2134-12-18 08:13:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
   - prednisone decreased to home dose of 5mg daily
   - wound growing MSSA, started nafcillin, d/c'd other ABX
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsReglan (Oral)
   (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-15**] 08:47 PM
   Piperacillin - [**2134-12-17**] 06:00 AM
   Nafcillin - [**2134-12-18**] 07:57 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2134-12-17**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2134-12-17**] 12:00 PM
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2134-12-18**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.8
   HR: 66 (63 - 85) bpm
   BP: 135/82(94) {124/68(51) - 155/104(122)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.5 kg (admission): 67.5 kg
   Height: 66 Inch
             Total In:
                                                                    615 mL
                                                                    180 mL
   PO:
             TF:
   IVF:
                                                                    590 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    200 mL
   Urine:
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                    -20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%RA
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, LLE dressing c/d/i
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, month, year, [**Hospital1 54**], Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   206 K/uL
   8.6 g/dL
   77 mg/dL
   5.8 mg/dL
   25 mEq/L
   3.0 mEq/L
   46 mg/dL
   107 mEq/L
   144 mEq/L
   26.1 %
   5.1 K/uL
        [image002.jpg]
                            [**2134-12-14**]  05:20 PM
                            [**2134-12-14**]  05:40 PM
                            [**2134-12-14**]  06:00 PM
                            [**2134-12-15**]  03:59 AM
                            [**2134-12-15**]  05:37 AM
                            [**2134-12-15**]  10:09 AM
                            [**2134-12-16**]  04:29 AM
                            [**2134-12-16**]  06:09 AM
                            [**2134-12-17**]  06:01 AM
                            [**2134-12-18**]  04:55 AM
   WBC
   11.4
   10.9
   7.8
   5.1
   Hct
   32
   27
   27.7
   26.3
   26.5
   26.1
   Plt
   244
   231
   206
   206
   Cr
   5.7
   5.7
   5.6
   5.8
   TropT
   1.11
   0.71
   TCO2
   17
   17
   17
   18
   Glucose
   47
   47
   168
   223
   99
   70
   77
   Other labs: PT / PTT / INR:13.3/27.1/1.1, CK / CKMB /
   Troponin-T:276/11/0.71, Lactic Acid:3.0 mmol/L, Ca++:7.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Microbiology: [**2134-12-14**] 7:44 pm SWAB      Source: left foot wound.
      GRAM STAIN (Final [**2134-12-14**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      WOUND CULTURE (Final [**2134-12-16**]):
         STAPH AUREUS COAG +.    MODERATE GROWTH.
            Staphylococcus species may develop resistance during prolonged
            therapy with quinolones.   Therefore, isolates that are
   initially
            susceptible may become resistant within three to four days
   after
            initiation of therapy.  Testing of repeat isolates may be
            warranted.
            Please contact the Microbiology Laboratory ([**8-/2431**])
   immediately if
            sensitivity to clindamycin is required on this patient's
   isolate.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------  0.25 S
   OXACILLIN-------------   0.5 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   [**Date range (1) 10688**] BCx NGTD
   Assessment and Plan
   52M with DM1 c/b gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, iCMP with EF 40%, PVD admitted with septic shock from LLE
   cellulitis, adrenal insufficiency, and subendocardial ischemia (type II
   MI).
   # Hypoxemic Respiratory failure: resolved after treatement of septic
   shock, now with adequate room air oxygenation
   -supplemental O2 to maintain sat>92%
   .
   #Multifactorial shock - resolved, hemodynamically stable x >48 hr,s
   foot wound swab growing MSSA but culture may not reflect coinfection
   with gram negatives/anaerobes
   -cont nafcillin (day [**4-3**])
   -low threshold to go back to broader coverage (unasyn) if clinically
   worsens
   -cont home dose of prednisone
   -appreciate vascular & podiatry recs
   - f/u arterial studies
   .
   #Subendocardial ischemia: enzymes peaked [**12-14**], cath showed progression
   of diffuse multivessel CAD but no ACS.  ECHO shows increased
   hypokinesis of the inferior, posterior, and lateral walls
   - cont [**Month/Year (2) 369**] 325 mg, plavix, statin
   - start BB
   .
   # ESRD
   -appreciate renal involvement
   -cont PD
   -clarify cyclosporine dose with renal team
   .
   # DM1
   - cont basal, sliding scale insulin
   .
   #Systolic CHF:  currently euvolemic; TTE showed EF 40%
   -consider ACEi prior to discharge
   .
   # FEN
   -restart HH/DM diet now that mental status has improved
   .
   # PPX: H2blocker, SQH
   # ACCESS: R IJ, 18g PIV
   # CODE:  FULL
   # CONTACT: Wife [**Name (NI) 4**] [**Name (NI) 10662**] [**Telephone/Fax (1) 10663**]
   # DISPO: stable for transfer to floor
   ICU Care
   Nutrition: restart HH/DM diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition:Transfer to floor

2134-12-18 09:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Placed on home dose of prednisone
   Allergies:
   Reglan (Oral) (Metoclopramide Hcl)
   SEIZURES;
   Protonix (Oral) (Pantoprazole Sodium)
   diarrhea;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-12-15**] 08:47 PM
   Piperacillin - [**2134-12-17**] 06:00 AM
   Nafcillin - [**2134-12-18**] 07:57 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-12-17**] 12:00 PM
   Other medications:
   Plavix 75 daily, Renagel, Simvastatin 80, Prednisone 5mg, [**Last Name (LF) 1523**], [**First Name3 (LF) 369**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-18**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.8
   HR: 69 (63 - 84) bpm
   BP: 133/76(91) {124/68(51) - 155/104(109)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.3 kg (admission): 67.5 kg
   Height: 66 Inch
             Total In:
                                                                    615 mL
                                                                    195 mL
   PO:
             TF:
   IVF:
                                                                    590 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    400 mL
   Urine:
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -365 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   206 K/uL
   77 mg/dL
   5.8 mg/dL
   25 mEq/L
   3.0 mEq/L
   46 mg/dL
   107 mEq/L
   144 mEq/L
   26.1 %
   5.1 K/uL
        [image002.jpg]
                            [**2134-12-14**]  05:20 PM
                            [**2134-12-14**]  05:40 PM
                            [**2134-12-14**]  06:00 PM
                            [**2134-12-15**]  03:59 AM
                            [**2134-12-15**]  05:37 AM
                            [**2134-12-15**]  10:09 AM
                            [**2134-12-16**]  04:29 AM
                            [**2134-12-16**]  06:09 AM
                            [**2134-12-17**]  06:01 AM
                            [**2134-12-18**]  04:55 AM
   WBC
   11.4
   10.9
   7.8
   5.1
   Hct
   32
   27
   27.7
   26.3
   26.5
   26.1
   Plt
   244
   231
   206
   206
   Cr
   5.7
   5.7
   5.6
   5.8
   TropT
   1.11
   0.71
   TCO2
   17
   17
   17
   18
   Glucose
   47
   47
   168
   223
   99
   70
   77
   Other labs: PT / PTT / INR:13.3/27.1/1.1, CK / CKMB /
   Troponin-T:276/11/0.71, Lactic Acid:3.0 mmol/L, Ca++:7.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   Imaging: No new imaging.
   Microbiology: No new data.
   Assessment and Plan
   52M with DM1 with gastroparesis/neuropathy, s/p renal transplant in
   [**2119**], CAD, CHF with EF 45%, PVD who presents with LLE cellulitis and
   shock, ACS, intubated on pressors.  Cardiac cath demonstrated worsening
   3 vs disease with no lesion amenable to PCI, suggesting subendocardial
   ischemia.  Now improved
 extubated and off pressors.  Ongoing problems
   include:
   # Hypoxemia:  Extubated [**12-15**]. PECT yesterday as above.  In the
   interim, oxygen requirement spontaneously improved. Transient hypoxia
   may have represented aspiration, vs pulmonary edema. Unlikely to have
   VAP.
   - Lasix to diurese
   - F/U final CT read
   # Multifactorial shock:  Initially hypovolumeic. Also with sepsis
   (likely LLE cellulitis) and adrenal insufficiency (on chronic pred and
   failed [**Last Name (un) 45**] stim).  Now off levophed.
   - Reduce steroids to home dose (may help with delirium).
   - Start tapering antibiotics based on cultures: Nafcillin
 d/c
   vanc/zosyn. Will broaden coverage at first sign of decompensation.
   #LE ulcer: physical exam significantly improved
   - F/U vascular/podiatry recs
   - F/U arterial dopplers
   # Agitation/delerium:  Fluctuating mental status, redirectable
   -  Responded to zyprexa
   -  Consider haldol prn
   -  D/c stress dose steroids.
   # Demand ischemia:  EKG with ischemic changes, no STE
 cards feels it
   is consistent with demand ischemia.  S/p cath [**12-14**]
 needs CABG in
   future.
   - [**Month/Year (2) 369**] 325 mg / Plavix/ Statin
   - Hold BB for now given intermittent pressor requirement
   # ESRD on PD: On cyclosporine for h/o renal transplant. Home dose
   steroids.
   #FEN: Wife refusing NGT.  Mental status not able to tolerate Pos.  Will
   readdress with wife.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2134-12-13**] 05:51 PM
   18 Gauge - [**2134-12-13**] 06:52 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Refusing SQ heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes